US08609680B2
A solution of (S)-5-bromo-indan-1-ol (15.0 g, 70.4 mmol) in toluene (150 mL) was cooled in an ice bath under N2 and was treated with diphenylphosphoric azide (DPPA, 22.0 g, 91.5 mmol) in one portion followed by 1,8-diazabicyclo[5,4,0]undec-7-ene (15.0 g, 98.6 mmol). The reaction temperature was kept between 3 and 10° C. during 3 hours of addition and the mixture was warmed to 15° C. over the next hour (TLC indicated no starting material). The mixture was diluted with EtOAc (300 mL) and was washed with water. The organic layer was dried over Na2SO4, filtered and concentrated to give a dark oil. The crude product was purified by silica gel column (packed with 1% Et3N in hexanes, hexane eluant) to give (R)-1-azido-5-bromo-indane (14 g, 83%) as an oil which was used directly in the next step.

reactant | (S)-5-bromo-indan-1-ol | 70.4 mmol, 15.0 g | BrC=1C=C2CC[C@@H](C2=CC1)O | C9H9BrO
reactant | diphenylphosphoric azide | 91.5 mmol, 22.0 g | C1=CC=C(C=C1)OP(=O)(N=[N+]=[N-])OC2=CC=CC=C2 | C12H10N3O3P
reactant | 1,8-diazabicyclo[5,4,0]undec-7-ene | 98.6 mmol, 15.0 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | (R)-1-azido-5-bromo-indane | 14 g, 83% | N(=[N+]=[N-])[C@@H]1CCC2=CC(=CC=C12)Br | C9H8BrN3
